US07557213B2
Preparation of 6-[3-(3,4-Dimethyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carbonitrile
Experimental conditions analogous to those described for Step 3 of Example 1, from 51 mg (0.18 mmol) of 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one, 9 mg (0.22 mmol) of 60% sodium hydride, 44 mg (0.22 mmol) of 6-bromomethyl-pyridine-2-carbonitrile and 0.7 mL of N,N-dimethylformamide. Yield: 27 mg of a white solid: LC-MSD, m/z for C25H19N3O2 [M+H]+=394.1; HPLC retention time: 2.1 min.

reactant | 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | 0.18 mmol, 51 mg | CC=1C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=CC1C | C18H15NO2
reactant | sodium hydride | 0.22 mmol, 9 mg | [H-].[Na+]
reactant | 6-bromomethyl-pyridine-2-carbonitrile | 0.22 mmol, 44 mg | BrCC1=CC=CC(=N1)C#N | C7H5BrN2
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 6-[3-(3,4-Dimethyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carbonitrile | CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=CC=CC(=N2)C#N)C=CC1C | C25H19N3O2
